US06509329B1
Synthesis of 5-Hydroxymethyl-4-(3,4,5-trimethoxyphenyl)-pyrimidine
5-Hydroxymethyl-2-methylthio-4-(3,4,5-trimethoxyphen yl)pyrimidine (1.75 g) was dissolved in a mixed solvent of ethanol (50 mL) and aqueous ammonia (5 mL). Raney nickel (R=100, wet type, 17.0 g) was added to the solution, and the mixture was stirred at 90° C. for 2.5 hours. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. Water was added to the residue to conduct extraction with ethyl acetate. The resultant organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=9:1) to obtain the title compound.

reactant | 5-Hydroxymethyl-2-methylthio-4-(3,4,5-trimethoxyphen yl)pyrimidine | 1.75 g | OCC=1C(=NC(=NC1)SC)C1=CC(=C(C(=C1)OC)OC)OC | C15H18N2O4S
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ammonia | 5 mL | N | H3N
catalyst | Raney nickel | 17.0 g | [Ni] | Ni
product | 5-Hydroxymethyl-4-(3,4,5-trimethoxyphenyl)-pyrimidine | OCC=1C(=NC=NC1)C1=CC(=C(C(=C1)OC)OC)OC | C14H16N2O4
